US05142056
A. N-((Benzyloxycarbonyl)methyl)-valine Methyl Ester
A solution of 2.12 g (12.6 mmol) of L-valine methyl ester hydrochloride, 2.0 ml (12.6 mmol) of benzyl bromoacetate, and 3.5 ml (31 mmol) of 4-methylmorpholine in 100 ml of dioxane was heated at reflux for 4 h. After being allowed to cool, the solution was concentrated in vacuo and partitioned between ether and water. The organic layer was dried over MgSO4 and concentrated in vacuo. Chromatography on silica gel using 20% ethyl acetate in hexane provided 0.77 g (22%) of the desired compound as a colorless oil (Rf 0.24, 20% ethyl acetate in hexane. 1H NMR δ 0.95 (d, J=7 Hz, 6H), 1.96 (br, 1H), 1.98 (octet, J=7 Hz, 1H), 3.08 (d, J=6 Hz, 1H), 3.43 (AA', 2H), 3.71 (s, 3H), 5.16 (s, 2H), 7.36 (m, 5H).

reactant | L-valine methyl ester hydrochloride | 12.6 mmol, 2.12 g | Cl.COC([C@@H](N)C(C)C)=O
reactant | benzyl bromoacetate | 12.6 mmol, 2.0 ml | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | 4-methylmorpholine | 31 mmol, 3.5 ml | CN1CCOCC1 | C5H11NO
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | N-((Benzyloxycarbonyl)methyl)-valine Methyl Ester | 0.77 g, 22% | COC([C@@H](NCC(=O)OCC1=CC=CC=C1)C(C)C)=O | C15H21NO4
